US07723333B2
4-{[2-(3,4-Dimethoxyphenyl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and [2-(3,4-dimethoxyphenyl)ethyl]amine in a similar manner as described for Example 24. 1H NMR (500 MHz CDCl3): δ 7.58-7.52 (m, 2H), 7.50-7.46 (m, 3H), 6.76 (d, 1H), 6.46 (dd, 1H), 6.36 (d, 1H), 5.40 (t, 1H), 4.41 (sept, 1H), 3.86 (s, 3H), 3.82 (s, 3H), 3.13 (q, 2H), 2.57 (t, 2H), 1.59 (d, 6H); 13C NMR (125 MHz, CDCl3): δ 158.7, 149.3, 148.1, 135.4, 131.7, 130.0, 129.9, 128.8, 125.4, 120.8, 111.8, 111.7, 107.2, 56.1, 47.8, 45.3, 35.6, 20.3; Mass Spectrum M+H+ 431

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | [2-(3,4-dimethoxyphenyl)ethyl]amine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
product | 4-{[2-(3,4-Dimethoxyphenyl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | COC=1C=C(C=CC1OC)CCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C22H26N2O5S
